US07504508B2
(2S,4R)-N-(4-Chloro-phenyl)-N-{1-[4-(4-methanesulfonylamino-3,3-dimethyl-4-oxo-butoxy)-benzoyl]-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl}-acetamide (H-46)
(2S,4R)-4-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-2,2-dimethyl-butyric acid (200 mg, 0.37 mmol) was dissolved in methylene chloride (5 mL) and oxalyl chloride (2 mL). A single drop of DMF was added, and the mixture was stirred at room temperature until gas evolution ceased. All volatiles were removed. The slurry was dissolved in methylene chloride (10 mL) and triethylamine (2 mL). Methanesulfonamide (200 mg, 2.10 mmol) was added and the reaction mixture was stirred for 3 hours. The mixture was partitioned between methylene chloride and water; the organic layer was dried over Na2SO4, filtered and concentrated. The crude residue was purified by preparatory HPLC.

reactant | (2S,4R)-4-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-2,2-dimethyl-butyric acid | 0.37 mmol, 200 mg | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(OCCC(C(=O)O)(C)C)C=C1)C)C1=CC=C(C=C1)Cl | C31H33ClN2O5
reactant | DMF | CN(C)C=O | C3H7NO
reactant | Methanesulfonamide | 2.10 mmol, 200 mg | CS(=O)(=O)N | CH5NO2S
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | oxalyl chloride | 2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | (2S,4R)-N-(4-Chloro-phenyl)-N-{1-[4-(4-methanesulfonylamino-3,3-dimethyl-4-oxo-butoxy)-benzoyl]-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl}-acetamide | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OCCC(C(=O)NS(=O)(=O)C)(C)C)=O)C | C32H36ClN3O6S
